US05334576
Preparation of methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate
A solution of 33.2 g of methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate in 350 mL of acetic anhydride is stirred and heated at reflux for 4 hours. The solution is concentrated in vacuo, and the residue is triturated with 2:1 hexane-ether to give the desired product as a white solid.

reactant | methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate | 33.2 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=CC(=N1)C)C | C15H19N3O3
reactant | acetic anhydride | 350 mL | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate | C(C)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=CC(=N1)C | C17H21N3O4
